US08134013B2
7-a) tert-Butyl 3-[(5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]propionate
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (24 mg, 0.083 mmol) in isopropanol (2.0 mL) was heated with tert-butyl 3-{[5-(hydrazinocarbonyl)thiophene-2-carbonyl]amino}propionate (18 mg, 0.057 mmol) prepared in Reference Synthetic Example 7 and 6 mg of p-toluenesulfonic acid monohydrate at 100° C. for 8 hours and allowed to cool to room temperature. Water was added to the reaction mixture, and the precipitated solid was collected by filtration, washed with water, methanol and chloroform and dried to give 28 mg of the desired product (yield 85%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.083 mmol, 24 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | tert-butyl 3-{[5-(hydrazinocarbonyl)thiophene-2-carbonyl]amino}propionate | 0.057 mmol, 18 mg | N(N)C(=O)C1=CC=C(S1)C(=O)NCCC(=O)OC(C)(C)C | C13H19N3O4S
reactant | p-toluenesulfonic acid monohydrate | 6 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
solvent | isopropanol | 2.0 mL | C(C)(C)O | C3H8O
product | tert-Butyl 3-[(5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]propionate | 28 mg, yield 85% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)NCCC(=O)OC(C)(C)C)O | C25H25Cl2N3O5S2
